US09334279B2
To a 2 dram vial equipped with a stir bar was added 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine (60 mg, 0.21 mmol), 6-methyl-2-(3-pyridinyl)-1,3,6,2-dioxazaborocane-4,8-dione (“4-pyridyl MIDA boronate”, 50 mg, 0.21 mmol), Pd(dppf)Cl2 (8.0 mg, 10 μmol) and K3PO4 (337 mg, 1.59 mmol). The vial was capped with a septum screw-cap and then placed under N2 atmosphere. To the vial was added degassed THF (5 mL) and degassed water (1 mL). The vial was placed in a 60° C. heating block with stirring for 3 hours. The reaction mixture was cooled to room temperature and the aqueous phase was decanted. The organic solution was concentrated under a stream of N2 and the resulting solid residue was subjected to silica gel chromatography (hexanes:EtOAc) to afford 4-chloro-6-(4-isopropoxyphenyl)-2,4′-bipyridine as a white solid (45 mg, 65%). 1H-NMR (400 MHz, CDCl3) δ 8.84-8.81 (m, 2H), 8.16-8.11 (m, 2H), 8.00-7.97 (m, 3H), 7.04-6.99 (m, 2H), 4.69 (spt, J=6.0 Hz, 1H), 1.40 (d, J=6.0 Hz, 6H); MS: MS m/z 326.2 (M++1).

reactant | 2,4-dichloro-6-(4-isopropoxyphenyl)pyridine | 0.21 mmol, 60 mg | ClC1=NC(=CC(=C1)Cl)C1=CC=C(C=C1)OC(C)C | C14H13Cl2NO
reactant | 6-methyl-2-(3-pyridinyl)-1,3,6,2-dioxazaborocane-4,8-dione | 0.21 mmol, 50 mg | CN1CC(OB(OC(C1)=O)C=1C=NC=CC1)=O | C10H11BN2O4
reactant | K3PO4 | 1.59 mmol, 337 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(dppf)Cl2 | 10 μmol, 8.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-chloro-6-(4-isopropoxyphenyl)-2,4′-bipyridine | 45 mg, 65% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C1=CC=NC=C1 | C19H17ClN2O
